US04072498
Using the procedure of Example 1, but substituting 2-bromo-N,N-dimethylbutyramide for 2-chloro-N,N-dimethylpropionamide and 4-methyl-3-(2,5-dimethylphenyl)pyrazole for 4-methyl-3-phenylpyrazole there is obtained α-ethyl-N,N,4-trimethyl-3-(2,5-dimethylphenyl)pyrazole-1-acetamide isolated as an oil.

reactant | 2-chloro-N,N-dimethylpropionamide | ClC(C(=O)N(C)C)C | C5H10ClNO
reactant | 4-methyl-3-(2,5-dimethylphenyl)pyrazole | CC=1C(=NNC1)C1=C(C=CC(=C1)C)C | C12H14N2
reactant | 4-methyl-3-phenylpyrazole | CC=1C(=NNC1)C1=CC=CC=C1 | C10H10N2
product | α-ethyl-N,N,4-trimethyl-3-(2,5-dimethylphenyl)pyrazole-1-acetamide | C(C)C(C(=O)N(C)C)N1N=C(C(=C1)C)C1=C(C=CC(=C1)C)C | C18H25N3O
